US07220876B2
Methyl 2-methyl-6-[(1R,3S)-3-(2-oxoethoxy)cyclohexyloxymethyl]benzoate
1.0 g of methyl 2-((1R,3S)-3-allyloxycyclohexyloxymethyl)-6-methylbenzoate is dissolved in 30 ml of diethyl ether, and 2.0 g of sodium periodate, dissolved in 30 ml of water, are added. At 0° C., 2 ml of a solution of 2.5% by weight of osmium tetroxide and tert-butanol are added. The reaction mixture is stirred vigorously for three hours. The mixture is then cooled to 0° C., and 50 ml of a saturated sodium thiosulfate solution are added. The organic phase is removed. The aqueous phase is extracted three times with in each case 20 ml of diethyl ether. The combined organic phases are dried over magnesium sulfate and the solvent is then removed under reduced pressure. This gives 1.0 g of methyl 2-methyl-6-[(1R,3S)-3-(2-oxoethoxy)cyclohexyloxymethyl]benzoate as a yellow oil C18H24O5 (320.39), MS(ESI): 321 (M+H+), Rf=0 23 (n-heptane:ethyl acetate=1:1).

reactant | methyl 2-((1R,3S)-3-allyloxycyclohexyloxymethyl)-6-methylbenzoate | 1.0 g | C(C=C)O[C@@H]1C[C@@H](CCC1)OCC1=C(C(=O)OC)C(=CC=C1)C | C19H26O4
reactant | sodium periodate | 2.0 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | sodium thiosulfate | 50 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | water | 30 ml | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | Methyl 2-methyl-6-[(1R,3S)-3-(2-oxoethoxy)cyclohexyloxymethyl]benzoate | CC1=C(C(=O)OC)C(=CC=C1)CO[C@H]1C[C@H](CCC1)OCC=O | C18H24O5
